US06720338B2
tert-butyl 4-benzyl-4-hydroxypiperidine-1-carboxylate
A solution of 4-hydroxy-4-benzyl piperidine (0.66 g, 3.5 mmol) in 1M NaOH (7 mL, 7 mmol) and dioxane (5 mL) at 0° C. was treated with BOC2O (0.76 g, 3.5 mmol), warmed to room temperature, stirred for 16 hours, adjusted to pH<7 with 10% citric acid, and extracted twice with ethyl acetate. The combined extracts were washed with water and brine, dried (Na2SO4), filtered, and concentrated to provide the desired product.

reactant | 4-hydroxy-4-benzyl piperidine | 3.5 mmol, 0.66 g | OC1(CCNCC1)CC1=CC=CC=C1 | C12H17NO
reactant | NaOH | 7 mmol, 1M, 7 mL | [OH-].[Na+]
reactant | BOC2O | 3.5 mmol, 0.76 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-benzyl-4-hydroxypiperidine-1-carboxylate | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C17H25NO3
